US07834015B2
Step 1: tert-Butyl 4-[(4-iodopyridin-2-yl)carbonyl]-1,4-diazepane-1-carboxylate (I1)
To a solution of 2-carboxy-4-iodopyridinium iodide (1 eq) in DMF were added tert-butyl 1-homopiperazinecarboxylate (2.05 eq), HBTU (2.05 eq) and DIPEA (2.05 eq) and the mixture was stirred overnight at RT. The reaction mixture was diluted with DCM and washed with 0.5N HCl solution and brine. The organic phase was dried (Na2SO4) and concentrated under reduced pressure. The resulting crude was used as such in the next step without purification. MS (ES) C16H22IN3O3 requires: 431, found: 432 (M+H)+.

reactant | 2-carboxy-4-iodopyridinium iodide | 1 eq | [I-].C(=O)(O)C1=[NH+]C=CC(=C1)I
reactant | tert-butyl 1-homopiperazinecarboxylate | 2.05 eq | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | HBTU | 2.05 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.05 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-[(4-iodopyridin-2-yl)carbonyl]-1,4-diazepane-1-carboxylate | IC1=CC(=NC=C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H22IN3O3
